Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim / Aleve
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
none
attach
 
Pertinent Results:
ADMISSION LABS
=============
___ 05:48AM BLOOD WBC-6.5 RBC-2.62* Hgb-8.4* Hct-26.0* 
MCV-99* MCH-32.1* MCHC-32.3 RDW-17.7* RDWSD-64.2* Plt ___
___ 05:48AM BLOOD Neuts-79.1* Lymphs-5.7* Monos-11.3 
Eos-3.1 Baso-0.3 Im ___ AbsNeut-5.11 AbsLymp-0.37* 
AbsMono-0.73 AbsEos-0.20 AbsBaso-0.02
___ 05:48AM BLOOD Glucose-212* UreaN-24* Creat-1.8* Na-142 
K-4.6 Cl-103 HCO3-23 AnGap-16
___ 05:48AM BLOOD ALT-13 AST-11 LD(LDH)-194 AlkPhos-117 
TotBili-0.4
___ 05:48AM BLOOD Calcium-8.8 Phos-3.5 Mg-1.8

PERTINENT LABS
=============
Patient was made CMO ___ after discussions with the team and 
loved ones.
___ 05:44PM BLOOD Triglyc-93
___ 07:20PM BLOOD Beta-OH-<0.2
___ 03:33AM BLOOD TSH-3.3
___ 07:20PM BLOOD TSH-4.8*
___ 05:25PM CEREBROSPINAL FLUID (CSF) TNC-1 RBC-28* 
Polys-68 ___ Monos-14 Eos-1
___ 05:25PM CEREBROSPINAL FLUID (CSF) TNC-0 RBC-475* 
Polys-56 Bands-1 ___ Monos-4 Eos-2 NRBC-24
___ 05:25PM CEREBROSPINAL FLUID (CSF) TotProt-46* 
Glucose-75

STUDIES AND IMAGING
==================
___ CXR PA LAT
Reaccumulation of laterally loculated left pleural effusion and 
probable
residual small right pleural effusion. No pneumothorax. 
Increased interstitial
markings throughout the lungs suggesting pulmonary edema though 
improved since
prior.

___ TTE
Mild symmetric left ventricular hypertrophy with global 
hypokinesis in the setting of
relative regional dysfunction ___ apex; basal 
inferolateral/anterolateral segments contract best) c/w 
multivessel coronary artery disease. Moderate mitral 
regurgitation. Indeterminate pulmonary pressure. EF 25%

___ CXR AP
Similar pulmonary vascular congestion with loculated small to 
moderate left
pleural effusion.  No definitive areas of consolidation to 
suggest pneumonia.

___ CTH W/OUT CON
1. No acute intracranial abnormality.
2. Moderate to severe periventricular deep white matter 
hypodensities which
are nonspecific, but likely represent chronic small vessel 
ischemia.

___ CT CHEST W/OUT CON
1. No acute intracranial abnormality.
2. Moderate to severe periventricular deep white matter 
hypodensities which
are nonspecific, but likely represent chronic small vessel 
ischemia.

___ MRI HEAD W/+ W/O CON
1. Motion limited exam.
2. No imaging evidence of cryptococcal CNS involvement.
3. No evidence for a mass or an acute intracranial abnormality.
4. Unchanged extensive T2/FLAIR hyperintensities in the 
supratentorial white
matter and pons, which are nonspecific but likely sequela of 
chronic small
vessel ischemic disease in this age group..
5. New paranasal sinus abnormalities compared to ___, 
including
moderate to severe opacification of the right anterior ethmoid 
air cells.

___ CXR AP
Overall improvement in vascular congestion, airspace 
opacification and
left-sided pleural effusion compared to prior.

___ FDG PET TUMOR
1. Stable in size and less metabolically active
  solid 1.3 cm left apical nodule compare to ___. 
Improvement of
multifocal bilateral pulmonary nodules with FDG avidity.  
Interval improvement
of the multifocal atelectasis.  These findings suggest improving 
infectious
process. 3. Left hilar increased FDG avidity could be reactive 
to the infectious
process. 4. Improved left small pleural effusion and resolution 
of the right
pleural effusion compared to ___ CXR AP
1. Subtle increase in opacification at the right lower lobe 
since ___,
likely representing pneumonia/aspiration that was previously 
seen on
radiograph from ___.
2. Left pleural effusion is unchanged since ___.
3. Mild pulmonary venous congestion is unchanged.

___ MRI HEAD W/O CONTRAST
1. No acute intracranial abnormality or intracranial mass is 
identified.
2. Stable nonspecific bilateral supratentorial T2/FLAIR white 
matter
hyperintensities, some of which are confluent, which may 
represent the
sequelae of chronic microangiopathy.
3. Stable mild paranasal sinus mucosal thickening.

___ RENAL US
No hydronephrosis. The bladder is moderately well distended.  
Trabeculation of the bladder wall suggests sequelae of chronic 
outlet obstruction.
 
There is a right pleural effusion.

___ CXR
Increased consolidations in the lower lungs bilaterally are 
concerning for
pneumonia.  Increased left pleural effusion.

MICROBIOLOGY
============
___ BCx
___ Sputum cx growing pseudomonas
___ Serology/blood positive cryptococcal antigen, 
quantitative
___ BCx (myco/f lytic bottle) - NGTD
___ CSF Spinal fluid negative crypto
___ CSF spinal fluid cx NGTD
___ CSF enterovirus cx negative
___ Urine Cx neg 
___ BCx NGTD
___ Urine not processed
___ BCx NGTD
___ Port insertion site drainage wound culture (stap aureus 
coag+)
___ Port insertion site drainage wound gram stain (stap 
aureus coag+)

DISCHARGE LABS
=============
Patient made CMO ___ and expired ___ at ___ 
 
Brief Hospital Course:
SUMMARY STATEMENT
==================
___ PMH of DLBCL (___) on surveillance s/p multiple tx 
regimens c/b MI s/p DES ___ w/new HFrEF (27%), vincristine 
induced autonomic dysfunc (on midodrine), COPD, OSA, CKD, HTN, 
T2DM transferring to ___ after ___ pleural fluid culture at OSH 
yielded Cryptococcus neoformans c/c/b nonconvulsive status 
epilepticus, new port site dehiscence/infection, PNA on CXR 
___, and made CMO ___ and expired ___ at ___
 
ACUTE ISSUES ADDRESSED
=======================
# Non-convulsive status epilepticus
# Altered mental status
Since ___ patient noted to have waxing, waning mental status 
iso stable vital signs, nonfocal neurological exam without gross 
deficit. Normal MRI, currently unremarkable CSF findings, but 
EEG showing non-convulsive status epilepticus. Patient loaded 
with Keppra and valproic acid s/p Ativan terminating his 
seizures. Likely due to cefepime lowering seizure threshold with 
the patient overall having a low seizure threshold in general 
___ comorbidities. The patient recovered a significant aspect of 
his mentation afterwards yet on ___ he continued to be 
obtunded most likely due to hypoactive delirium per neurology 
team. The patient was made CMO ___ after ___ discussion with 
family and expired ___ at ___.
 
#Port dehiscence
#Port insertion site purulence
On ___ the patient was noted to have purulent drainage from 
port. Afebrile with vital signs stable except tachycardia 
baseline. Dressing was uncovered and revealed purulence on the 
port site along with dehiscence of port. ___ removed port ___. 
Wound swabs were sent for culture ___. In setting of new 
worsening cough and right lower lobe pneumonia (below) was 
started on broad antibiotic coverage. The patient was made CMO 
___ after ___ discussion with family and expired ___ at 
___.
 
#Severe malnutrition in context of chronic illness
pt noted to have weight loss of >10% in 6 months (20% in ~6 
months). He has <=75% energy intake compared to estimated energy 
needs for >=1 month. In setting of status epilepticus the 
patient was started on TPN. The patient was made CMO ___ after 
___ discussion with family and expired ___ at ___.
  
# Positive cryptococcus antigen serology
# Crytococcus neoformans growth on pleural fluid ___
The patient underwent thoracentesis at ___ during 
previous admission in early ___ for which pleural cultures 
revealed Cryptococcus neoformans growth, likely representing 
chronic infection confirmed by serologic testing done at ___. 
Patient without fevers, rigors, weight loss, signs/symptoms of 
shock or neutropenia. LP results included neg gram stain, NGTD 
on fluid cx, fungal cx, or AF cx; borderline elevation in 
protein with low opening pressure (8mmHg), flow cytometry 
nondiagnostic, cytogenetics negative for IGH/BCL2. The patient 
was made CMO ___ after ___ discussion with family and expired 
___ at ___.
 
#Hypotension
#Hypoxia
#Recurrent aspiration pneumonia
Pt with recent hospitalization for COPD exacerbation requiring 
MICU stay in ___. Prior MICU hospitalization was 
multifactorial in nature secondary to COPD, acute systolic heart 
and pleural effusion. Pt was hypoxic in clinic though waveform 
was poor so unclear if was true value. CXR on admission revealed 
b/l effusions and slightly improved pulm edema. Notably, pt is 
s/p chest tube in ___. IP c/s for pleural effusion as above, 
deferring on tap as has been negative for malignancy in past. 
Patient on TPN since ___ due to asp risk and nw non-convulsive 
status epilepticus. New RLL PNA noted on CXR ___ iso worsening 
cough and pt was started on Vanc/Zosyn for likely aspiration 
once more. The patient was made CMO ___ after ___ discussion 
with family and expired ___ at ___.
 
#Pleural Effusion
CXR on admission ___ showed re-accumulation of left sided 
loculated effusion, CT chest ___ shows worsening pulmonary 
edema and increased effusion. home torsemide 20mg daily was 
restarted. The patient was made CMO ___ after ___ discussion 
with family and expired ___ at ___.
  
#Tachycardia
Pt with history of tachycardia to 110-120's. Notably, pt had 
been receiving home Torsemide daily, had been continued I/s/o 
poor PO intake. Sinus tachy on EKG with prolonged PR interval. 
Given slight ___, and collapsed IVC on bedside TTE in ED, felt 
tachycardia was most likely d/t hypovolemia. Improved after 
500cc bolus. Given that BNP was lower than baseline, and patient 
was not hypoxic, CHF exacerbation was unlikely. TTE with stable 
disease (EF 27%) from prior. Cardiology also recommended 
increasing home Toprol XL to 50mg PO daily. The patient was made 
CMO ___ after ___ discussion with family and expired ___ 
at ___.
 
#CAD 
#HFrEF 
#Ischemic Cardiomyopathy
#HLD
As above, patient not felt to be having ACS nor CHF exacerbation 
per cardiology. TTE w/ EF of 25% and global hypokinesis as 
above. Pt w/ NSTEMI on prior hospitalization thought to be due 
to demand ischemia I/s/o hypoxemic respiratory failure (___) 
with known CAD and recent DES of the proximal LAD on ___. 
As of ___ the patient is unable to take IV meds secondary to 
status epilepticus and high aspiration risk. The patient was 
switched to rectal 100 mg aspirin without a second antiplatelet 
agent iso being close to 6mo s/p ___. The patient was 
made CMO ___ after ___ discussion with family and expired 
___ at ___.
  
#DLBCL
S/p multiple lines of treatment, see prior notes for details. 
Had suspicious area in left lung apex which was being surveilled 
given his fragile clinical status. Acyclovir/atovaquone ppx was 
continued while inpatient. The patient was made CMO ___ after 
___ discussion with family and expired ___ at ___.
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
3. Allopurinol ___ mg PO DAILY 
4. Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line 
5. Amitriptyline 50 mg PO QHS 
6. Fleet Enema (Mineral Oil) ___AILY:PRN constipation 
7. Glargine 10 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
8. Atorvastatin 80 mg PO QPM 
9. Fluticasone Propionate NASAL 1 SPRY NU QHS:PRN allergies 
10. Atovaquone Suspension 750 mg PO QHS 
11. Clopidogrel 75 mg PO DAILY 
12. Famotidine 20 mg PO Q24H 
13. Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 
14. Temazepam 30 mg PO QHS 
15. Metoprolol Succinate XL 25 mg PO DAILY 
16. Tiotropium Bromide 1 CAP IH DAILY 
17. Torsemide 20 mg PO DAILY 
18. Acyclovir 400 mg PO Q12H 
19. Cetirizine 10 mg PO DAILY:PRN allergies 

 
Discharge Medications:
Patient was made CMO ___ and expired ___ at ___

 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Patient was made CMO ___ and expired ___ at 2105h

 
Discharge Condition:
Patient was made CMO ___ and expired ___ at 2105h

 
Discharge Instructions:
Patient was made CMO ___ and expired ___ at 2105h

 
Followup Instructions:
___